US08669234B2
2,7-Dibromo-9,9-difluoro-9H-fluorene (372 mg, 1.04 mmol), Pd(PPh3)4 (30.0 mg, 0.026 mmol), PdCl2(PPh3)2 (18.2 mg, 0.026 mmol), As(PPh3)3 (5.0 mg) were dissolved in dioxane (10 mL) under an argon atmosphere. Ethoxyvinyl-tributyl tin (376.4 mg, 1.04 mmol) was added. The mixture was heated for 140 minutes at 85° C. (oil bath). The reaction was cooled to room temperature. N-bromo succinimide (177 mg, 1.0 mmol) was added followed by water (2 mL). The reaction was stirred at room temperature for 3 hours, after which the majority of the dioxane was removed in vacuo. The crude reaction mixture was diluted with EtOAc and was washed with water. All volatiles were removed in vacuo. Toluene was added and all volatiles were removed in vacuo for a second time. The crude material was dissolved in DMF/MeCN (2 mL, 1:1) at room temperature. A solution of N-Cbz-4-cyclopropyl (L) Proline (0.84 mmol) and DIEA (268 mg, 2.08 mmol) in MeCN (2 mL) was added and stirring at room temperature was continued. After 14 hours, most of the MeCN was removed in vacuo and the crude reaction mixture was diluted with EtOAc. The mixture was washed with aqueous HCl (1M), aqueous LiCl solution (5%), brine, and was dried over sodium sulfate. Filtration and evaporation of solvents gave the crude reaction product, which was purified via silica gel chromatography (eluent: EtOAc/hexanes) to yield the product 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester 6-[2-(7-bromo-9,9-difluoro-9H-fluoren-2-yl)-2-oxo-ethyl]ester (176 mg). LCMS-ESI+: calc'd for C30H24BrF2NO5: 596.4 (M+). Found: 595.2/597.2 (M+H+).

reactant | 2,7-Dibromo-9,9-difluoro-9H-fluorene | 1.04 mmol, 372 mg | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(F)F | C13H6Br2F2
reactant | Ethoxyvinyl-tributyl tin | 1.04 mmol, 376.4 mg | C(C)OC=C[Sn](CCCC)(CCCC)CCCC
reactant | N-bromo succinimide | 1.0 mmol, 177 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-Cbz-4-cyclopropyl (L) Proline | 0.84 mmol | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)C1CC1 | C16H19NO4
reactant | DIEA | 2.08 mmol, 268 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 2 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.026 mmol, 30.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | PdCl2(PPh3)2 | 0.026 mmol, 18.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2 mL | O | H2O
product | 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester 6-[2-(7-bromo-9,9-difluoro-9H-fluoren-2-yl)-2-oxo-ethyl]ester | 176 mg | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(F)F)C(COC(=O)C1N(CC2(CC2)C1)C(=O)OCC1=CC=CC=C1)=O | C30H24BrF2NO5
